### PR TITLE
[Merged by Bors] - feat: coercion to bounded continuous functions as a CLM on TestFunction

### PR DESCRIPTION
**Pull request by ADedecker**
This code comes from #30328 by @luigi-massacci, which I have adapted following reviews on earlier PR. I'm opening this as a shortcut to parallelize reviewing.

Co-authored-by: @luigi-massacci 

---

- [x] depends on: #31806 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Distribution/TestFunction.lean [hunk 1]
```diff
@@ -233,6 +233,34 @@ def ofSupportedInLM [SMulCommClass ℝ 𝕜 F] {K : Compacts E} (K_sub_Ω : (K :
...
+variable (𝕜) in
+/-- Inclusion of `𝓓^{n}(Ω, F)` into the space `E →ᵇ F` of bounded continuous maps
+as a `𝕜`-linear map.
+
+This is subsumed by `toBoundedContinuousFunctionCLM`, which also bundles the continuity. -/
+noncomputable def toBoundedContinuousFunctionLM [SMulCommClass ℝ 𝕜 F] :
+    𝓓^{n}(Ω, F) →ₗ[𝕜] E →ᵇ F where
+  toFun f := f
+  map_add' _ _ := rfl
+  map_smul' _ _ := rfl
```
Comment (ocfnash) [inline Mathlib/Analysis/Distribution/TestFunction.lean]: Why not just inline this definition in the CLM version below?

I note that:

- There is precedent with [ContDiffMapSupportedIn.toBoundedContinuousFunctionLM](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.html#ContDiffMapSupportedIn.toBoundedContinuousFunctionLM) but my question applies there too.
- The typeclass demands of the CLM version have `[Algebra ℝ 𝕜] [IsScalarTower ℝ 𝕜 F]` instead of just `[SMulCommClass ℝ 𝕜 F]` but this feels extremely unlikely ever to be useful.

File: Mathlib/Analysis/Distribution/TestFunction.lean [hunk 2]
```diff
@@ -332,4 +360,41 @@ protected theorem continuous_iff_continuous_comp [Algebra ℝ 𝕜] [IsScalarTow
...
+variable (𝕜) in
+theorem injective_toBoundedContinuousFunctionCLM [Algebra ℝ 𝕜] [IsScalarTower ℝ 𝕜 F] :
+    Function.Injective (toBoundedContinuousFunctionCLM 𝕜 : 𝓓^{n}(Ω, F) →L[𝕜] E →ᵇ F) :=
+  fun f g ↦ by simp [toBoundedContinuousFunctionCLM, toBoundedContinuousFunctionLM]
+
+instance : T3Space 𝓓^{n}(Ω, F) :=
+  have : T2Space 𝓓^{n}(Ω, F) := .of_injective_continuous
+    (injective_toBoundedContinuousFunctionCLM ℝ)
+    (toBoundedContinuousFunctionCLM ℝ).continuous
+  inferInstance
```
Comment (ocfnash) [inline Mathlib/Analysis/Distribution/TestFunction.lean]: Optional style nit:
```suggestion
  suffices T2Space 𝓓^{n}(Ω, F) from inferInstance
  .of_injective_continuous (injective_toBoundedContinuousFunctionCLM ℝ)
    (ContinuousLinearMap.continuous _)
```

File: Mathlib/Analysis/Distribution/TestFunction.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Analysis/Distribution/TestFunction.lean]: The thing is, since the continuity criterion I use is only valid for linear map, I need to have bundled my map before proving its continuity. For example, I cannot do this:
```lean
noncomputable def toBoundedContinuousFunctionCLM [Algebra ℝ 𝕜] [IsScalarTower ℝ 𝕜 F] :
    𝓓^{n}(Ω, F) →L[𝕜] E →ᵇ F where
  toFun f := f
  map_add' f g := rfl
  map_smul' c f := rfl
  cont := by
    rw [TestFunction.continuous_iff_continuous_comp]
    sorry
```
because `rw` sees no LinearMap in the goal (and I don't have a convenient way to `change` it).

What I could do however is:
```lean
noncomputable def toBoundedContinuousFunctionCLM [Algebra ℝ 𝕜] [IsScalarTower ℝ 𝕜 F] :
    𝓓^{n}(Ω, F) →L[𝕜] E →ᵇ F :=
  letI Φ : 𝓓^{n}(Ω, F) →ₗ[𝕜] E →ᵇ F :=
    { toFun f := f
      map_add' f g := rfl
      map_smul' c f := rfl }
  { toLinearMap := Φ
    cont := show Continuous Φ by
      rw [TestFunction.continuous_iff_continuous_comp]
      intro K K_sub_Ω
      exact (ContDiffMapSupportedIn.toBoundedContinuousFunctionCLM 𝕜).continuous }
```
What do you think is best?

Comment (ADedecker) [reply Mathlib/Analysis/Distribution/TestFunction.lean]: Hmmm, I guess I could do a custom `CLM` constructor. Let me think about it.

Comment (ADedecker) [reply Mathlib/Analysis/Distribution/TestFunction.lean]: @ocfnash I've tried something else, tell me how you like it.

Comment (ADedecker) [reply Mathlib/Analysis/Distribution/TestFunction.lean]: (I'm open to refactoring some things already in Mathlib, this is recent enough that I think we can just do it without worrying about deprecations)

Comment (ocfnash) [reply Mathlib/Analysis/Distribution/TestFunction.lean]: I like it a lot, and support the refactor of recent material without deprecation!

Comment (ADedecker) [reply Mathlib/Analysis/Distribution/TestFunction.lean]: In fact I think most of the things which are bundled as bare linear maps currently in Mathlib need to stay this way:
- [ContDiffMapSupportedIn.iteratedFDerivLM](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.html#ContDiffMapSupportedIn.iteratedFDerivLM), [ContDiffMapSupportedIn.toBoundedContinuousFunctionLM](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.html#ContDiffMapSupportedIn.toBoundedContinuousFunctionLM) and [ContDiffMapSupportedIn.structureMapLM](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.html#ContDiffMapSupportedIn.structureMapLM) need to exist in their bundled state to construct the topology (well I only need the last one, but it is built as the composition of the first two so it's natural to do it this way)
- proving the continuity of [ContDiffMapSupportedIn.iteratedFDerivLM](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/Distribution/ContDiffMapSupportedIn.html#ContDiffMapSupportedIn.iteratedFDerivLM) will require some preliminaries, so for now we are stuck with the linear version anyways

The only remaining one is `ofSupportedInLM`, which I have now removed (tbh I could have done this one earlier, but I was under the impression that I would have to do the duplication for everything anyways)

Comment (ocfnash) [reply Mathlib/Analysis/Distribution/TestFunction.lean]: Thanks for such a thorough dive into this minor issue!

**Comment by ocfnash** [comment]
Thanks!

bors merge
